US06605601B2
Step 9: 3-[4-(7-Ethyl-5-oxo-4-propyl-4,5,6,7-tetrahydro-1H-1,3,4,5a,8-pentaaza-as-indacen-2-yl)-bicyclo[2.2.2]oct-1-yl]-propionic acid (compound 3)
3-{4-[6-(1-Hydroxymethyl-propylamino)-2-oxo-3-propyl-3,7-dihydro-2H-purin-8-yl]-bicyclo[2.2.2]oct-1-yl}-propionic acid methyl ester (30 mg) was dissolved in 1 mL of SOCl2 and stirred under reflux for 15 min. The reaction mixture was then cooled to rt and concentrated under reduced pressure. The resulting residue was dissolved in a solution containing 1 mL of water, 0.5 mL of MeOH, and 0.1 mL of 10% aq. NaOH. The reaction mixture was stirred at rt for 30 min. It was then acidified to pH 2 with dilute 1 N HCl and concentrated. The resulting crude product was purified by preparative HPLC to afford the titled compound.

reactant | 3-{4-[6-(1-Hydroxymethyl-propylamino)-2-oxo-3-propyl-3,7-dihydro-2H-purin-8-yl]-bicyclo[2.2.2]oct-1-yl}-propionic acid methyl ester | 30 mg | COC(CCC12CCC(CC1)(CC2)C2=NC=1N(C(N=C(C1N2)NC(CC)CO)=O)CCC)=O | C24H37N5O4
solvent | SOCl2 | 1 mL | O=S(Cl)Cl | Cl2OS
product | 3-[4-(7-Ethyl-5-oxo-4-propyl-4,5,6,7-tetrahydro-1H-1,3,4,5a,8-pentaaza-as-indacen-2-yl)-bicyclo[2.2.2]oct-1-yl]-propionic acid | C(C)C1CN2C(N(C=3N=C(NC3C2=N1)C12CCC(CC1)(CC2)CCC(=O)O)CCC)=O | C23H33N5O3
